US04226775
1-(3-Benzoylpropionyl)-L-proline methyl ester
A mixture of 3.56 g. of 3-benzoylpropionic acid and 3.24 g. of N,N-carbonyldiimidazole in 30 ml. of tetrahydrofuran is stirred at room temperature for 30 minutes. A 3.32 g. portion of L-proline methyl ester hydrochloride is added and the mixture is stirred at room temperature for 2.5 days. The solvent is removed in vacuo. Water and dichloromethane are added to the residue and the organic layer is separated, washed with water, then with 0.1 N hydrochloric acid and dried over magnesium sulfate. The solvent is removed in vacuo, giving 5.0 g. of the desired product as off-white crystals, m.p. 66°-70° C.

reactant | 3-benzoylpropionic acid | C(C1=CC=CC=C1)(=O)CCC(=O)O | C10H10O3
reactant | N,N-carbonyldiimidazole | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | L-proline methyl ester hydrochloride | Cl.COC([C@H]1NCCC1)=O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(3-Benzoylpropionyl)-L-proline methyl ester | COC([C@H]1N(CCC1)C(CCC(C1=CC=CC=C1)=O)=O)=O | C16H19NO4
